US07235667B2
4-(2-amino-4,5-dimethylphenoxymethyl)-3-methylbenzoic acid methyl ester
A mixture of 4-(2-nitro-4,5-dimethylphenoxymethyl)-3-methylbenzoic acid methyl ester prepared in Reference Example 1 (7.21 g), acetic acid (88 ml) and water (8.8 ml) was stirred at 50° C. To the reaction solution, iron powder (6.11 g) was gradually added, and the mixture was stirred for 1 hour at 50° C. After cooling, the mixture was filtered and the filtrate was concentrated and azeotroped with toluene. To the residue, ethyl acetate-water (100 ml-100 ml) was added and the mixture was filtrated over Celite (registered trademark). The organic layer was washed, dried, concentrated under reduced pressure to give the title compound (4.66 g) having the following physical data.

reactant | 4-(2-nitro-4,5-dimethylphenoxymethyl)-3-methylbenzoic acid methyl ester | COC(C1=CC(=C(C=C1)COC1=C(C=C(C(=C1)C)C)[N+](=O)[O-])C)=O | C18H19NO5
reactant | acetic acid | 88 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 6.11 g | [Fe] | Fe
solvent | water | 8.8 ml | O | H2O
product | 4-(2-amino-4,5-dimethylphenoxymethyl)-3-methylbenzoic acid methyl ester | 4.66 g | COC(C1=CC(=C(C=C1)COC1=C(C=C(C(=C1)C)C)N)C)=O | C18H21NO3
